US08609656B2
3-(4-Chloro-3-(trifluoromethyl)phenyl)-1-hydroxy-1-[4-(6-methylpurin-9-yl)phenyl]urea (Table 1, Compound No. 50)
The title compound can be synthesized from 6-methylpurine, 4-fluoronitrobenzene and 4-chloro-3-(trifluoromethyl)phenyl isocyanate by using the same techniques as in Example 45.

reactant | 6-methylpurine | CC1=C2NC=NC2=NC=N1 | C6H6N4
reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
product | 3-(4-Chloro-3-(trifluoromethyl)phenyl)-1-hydroxy-1-[4-(6-methylpurin-9-yl)phenyl]urea | ClC1=C(C=C(C=C1)NC(N(C1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1)C)O)=O)C(F)(F)F | C20H14ClF3N6O2
